US07829560B2
4-(2-Chloroethoxy)-naphthalen-1-ylamine hydrochloride salt (482 mg, 1.86 mmol), 3-fluoro-5-piperidinylbenzoic acid (500 mg, 2.2 mmol), diisopropylethylamine (1.14 ml, 6.7 mmol) and HBTU (1.06 g, 2.8 mmol) are stirred at room temperature in anhydrous dimethylformamide (10 ml) for 1 day. The mixture is poured into ethyl acetate (200 ml) and washed with water (3×100 ml). The organic layer is dried over anhydrous sodium sulfate and evaporated to dryness. The residue is purified by column chromatography on silica gel eluted with 20% ethyl acetate in hexanes to give N-[4-(2-chloroethoxy)-naphthalen-1-yl]-3-fluoro-5-piperidin-1-yl-benzamide as a tan solid (650 mg).

reactant | 4-(2-Chloroethoxy)-naphthalen-1-ylamine hydrochloride salt | 1.86 mmol, 482 mg | Cl.ClCCOC1=CC=C(C2=CC=CC=C12)N
reactant | 3-fluoro-5-piperidinylbenzoic acid | 2.2 mmol, 500 mg | FC=1C=C(C(=O)O)C=C(C1)N1CCCCC1 | C12H14FNO2
reactant | diisopropylethylamine | 6.7 mmol, 1.14 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 2.8 mmol, 1.06 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-[4-(2-chloroethoxy)-naphthalen-1-yl]-3-fluoro-5-piperidin-1-yl-benzamide | 650 mg | ClCCOC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCCCC1)F)=O | C24H24ClFN2O2
